US08349880B2
Step Q (1): 10% Palladium on carbon (2.50 g, 23.5 mmol) was added under an atmosphere of nitrogen to a chilled (ice-water bath) solution of 1-(2-fluoro-4-nitrophenyl)-5-methyl-1H-1,2,4-triazole (15.0 g, 67.5 mmol, from preparation C, step1) dissolved in methanol (400 mL). The flask was repeatedly evacuated and flushed with hydrogen gas (double balloon). The resulting mixture was allowed to warm to rt and left to stir for 72 h under the hydrogen atmosphere. The vessel was subsequently purged with nitrogen gas. The reaction vessel and it contents were chilled (ice-water bath) and an additional portion of 10% Palladium on carbon (2.50 g, 23.5 mmol) was added. The flask was repeatedly evacuated and flushed with hydrogen gas (double balloon). The resulting mixture was allowed to warm to rt and left to stir for 6 h under the hydrogen atmosphere. The vessel was subsequently purged with nitrogen gas. The crude reaction mixture was filtered through a short plug of diatomaceous earth (Celite®). The reaction vessel and the Celite® were rinsed with fresh methanol. The combined filtrates were concentrated in vacuo. The residue was dried under high vacuum overnight to afford 3-fluoro-4-(3-methyl-1H-1,2,4-triazol-1-yl)aniline (12.1 g, 63.0 mmol, 93% yield) as a blackish/grey solid. LC-MS (M+H)+ 193.2. 1H NMR (500 MHz, chloroform-d) δ ppm 8.31 (d, J=2.4 Hz, 1 H), 7.47 (t, J=8.7 Hz, 1 H), 6.47-6.58 (m, 2 H), 3.97 (br. s., 2 H), 2.48 (s, 3 H).

reactant | 1-(2-fluoro-4-nitrophenyl)-5-methyl-1H-1,2,4-triazole | 67.5 mmol, 15.0 g | FC1=C(C=CC(=C1)[N+](=O)[O-])N1N=CN=C1C | C9H7FN4O2
reactant | methanol | 400 mL | CO | CH4O
catalyst | Palladium on carbon | 23.5 mmol, 2.50 g | [Pd] | Pd
catalyst | Palladium on carbon | 23.5 mmol, 2.50 g | [Pd] | Pd
product | 3-fluoro-4-(3-methyl-1H-1,2,4-triazol-1-yl)aniline | 63.0 mmol, 12.1 g, 93% yield | FC=1C=C(N)C=CC1N1N=C(N=C1)C | C9H9FN4
